US07989628B2
4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butan-1-ol
4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butyric acid methyl ester (100 mg, 0.3 mmol) was dissolved in 10 mL dry tetrahydrofurane. Lithiumborohydride (100 mg, 4.5 mmol) was added and the reaction mixture was refluxed overnight. The reaction mixture was quenched by addition of IN hydrochloride solution and refluxed for 30 minutes. The mixture was then adjusted to pH 10 by addition of 25% solution of ammonium hydroxide and extracted three times with ethyl acetate (100 mL each). The organic phases were pooled, dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0→0:100 gradient). The title compound was obtained as a light yellow oil (67 mg, 73%), MS: m/e=311.0 (M+H+).

reactant | 4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butyric acid methyl ester | 0.3 mmol, 100 mg | COC(CCCC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C)=O | C20H22N2O3
reactant | Lithiumborohydride | 4.5 mmol, 100 mg | [BH4-].[Li+]
solvent | tetrahydrofurane | 10 mL | O1CCCC1 | C4H8O
product | 4-{2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-butan-1-ol | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)CCCCO | C19H22N2O2
